US08563717B2
6-Amino-2-(butyloxy)-9-{3-[1-(2-methylpropyl)-4-piperidinyl]propyl}-7,9-dihydro-8H-purin-8-one
Prepared similarly to Example 14 from 2-(butyloxy)-8-(methyloxy)-9-[3-(4-piperidinyl)propyl]-9H-purin-6-amine and 1-iodo-2-methylpropane.

reactant | 2-(butyloxy)-8-(methyloxy)-9-[3-(4-piperidinyl)propyl]-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCC1CCNCC1)OC)N | C18H30N6O2
reactant | 1-iodo-2-methylpropane | ICC(C)C | C4H9I
product | 6-Amino-2-(butyloxy)-9-{3-[1-(2-methylpropyl)-4-piperidinyl]propyl}-7,9-dihydro-8H-purin-8-one | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCCC1CCN(CC1)CC(C)C)=O | C21H36N6O2
